US07196104B2
Preparation CQ: 3-(Benzyloxycarbonylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester
To a stirred solution of 3-(aminomethyl)-1-N-Boc-piperidine (1.64 g, 7.65 mmol) and TEA (1.6 mL, 11 mmol) in THF (5 mL) at 0° C., benzyl chloroformate (1.15 mL, 8.04 mmol) was added dropwise. The reaction was maintained at 0° C. for 1 h, then warmed to RT overnight. The solvent was evaporated in vacuo. The residue was taken up in a saturated solution of NH4Cl (aq) (15 mL) and extracted with EtOAc (10 mL). The organic layer was separated, dried over MgSO4, filtered and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel (1:4, EtOAc:hexane) to yield the title compound as a colorless oil. MS m/z: 349.3 (M+H). Calc'd. for C19H28N2O4-348.44.

reactant | 3-(aminomethyl)-1-N-Boc-piperidine | 7.65 mmol, 1.64 g | NCC1CN(CCC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | benzyl chloroformate | 8.04 mmol, 1.15 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(Benzyloxycarbonylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)CNC(=O)OCC1=CC=CC=C1 | C19H28N2O4
